US09212348B2
Synthesis of ethyl 2-(furan-2-yl)acetate
24.8 g of 2-(furan-2-yl)acetic acid was dissolved in 590 mL of N,N-dimethylformamide and mixed with 32.6 g (0.236 mol) of potassium carbonate and 6.42 g (19.7 mmol) cesium carbonate successively. The reaction mixture was further mixed with 19 mL (0.24 mol) of iodoethane under cooling with ice and stirred at room temperature for 14 hours. After completion of the reaction, the reaction mixture was diluted with distilled water and extracted with ethyl acetate. The organic layer was washed with saturated aqueous sodium chloride, dried over anhydrous sodium sulfate and filtered, and the filtrate was concentrated under reduced pressure to give 17.0 g of the desired product as a brown liquid.

reactant | 2-(furan-2-yl)acetic acid | 24.8 g | O1C(=CC=C1)CC(=O)O | C6H6O3
reactant | potassium carbonate | 0.236 mol, 32.6 g | C([O-])([O-])=O.[K+].[K+]
reactant | cesium carbonate | 19.7 mmol, 6.42 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | iodoethane | 0.24 mol, 19 mL | ICC | C2H5I
solvent | N,N-dimethylformamide | 590 mL | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | ethyl 2-(furan-2-yl)acetate | 17.0 g | O1C(=CC=C1)CC(=O)OCC | C8H10O3
